Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
left arm numbness and tingling radiating to chest
 
Major Surgical or Invasive Procedure:
Cardiac catheterization on ___ with DES to mid-LAD

 
History of Present Illness:
___ male, history of hypertension, hyperlipidemia, 
strong coronary artery family history, presenting for several 
episodes of recurrent left arm tingling and substernal chest 
discomfort. 

The patient reports that left arm numbness and tingling started 
1 week ago and sometimes radiates to mid-sternal chest. Chest 
pain feels like a pressurized pain "like an elephant sitting on 
chest" and resolves within ___ minutes. He also notes these same 
symptoms occur at rest.  As of ___ patient noted chest 
pressure with left arm tingling while rowing for exercise which 
had not occurred before this. He then proceeded to stationary 
bike and was chest pain free.

Yesterday he had left arm tingling and radiation that while 
bringing in groceries and climbing to the ___ floor. Patient had 
to sit down and was short of breath for about 30 seconds. This 
was unusual for him. 

Vitals on arrival temp 97.7, HR 56, BP 161/-92, RR 15, 99% RA
Labs showed WBC 5.3, Hg 15.0, platelets 215. Chem-7 with Na 137, 
potassium 3.7, Cl 100, Bicarb 28, BUN 12, Cr 0.8. Patient given 
aspirin 243 mg, simvastatin 10 mg daily, lisinopril 40 mg, HCZT 
25 mg, atorvastatin 80 mg. Patient with trop X 2 negative. 

Stress test showed ETT ___: 4.5 minutes, became tired, 
short of breath, EKG showed 1-2 mm STD lateral changes, 1 mm AVL 
and 2nd degree type 1 block after. Patient admitted to ___ for 
consideration of cardiac catheterization in the morning.

On the floor, patient denies any symptoms. He notes last episode 
of chest pain was in the ED overnight while he was resting. No 
change with inspiration. He denies fevers, syncopal symptoms, 
infectious symptoms, nausea, vomiting, diarrhea.  

On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
He denies exertional buttock or calf pain. All of the other 
review of systems were negative.  
 
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  

 
Past Medical History:
PAST MEDICAL HISTORY:  
1. CARDIAC RISK FACTORS:  
- Hypertension  
- Hyperlipidemia  
2. CARDIAC HISTORY:  
- CABG/PCI:None  
- PUMP FUNCTION: no tests done.  
- PACING/ICD:  none
3. OTHER PAST MEDICAL HISTORY:  Varicose veins, BPH, Glaucoma. 
 
Social History:
___
Family History:
Mother: HTN, Heart Disease, died after cath at age ___
Maternal Aunt: ___, ___
___ Uncle: MI, ___
Brother: CAD s/p stent, at age ___
Maternal Grandfather: MI, at age ___
Maternal Grandmother: ___ at age ___
 
Physical Exam:
Physical Exam on Admission
================================

Vitals:  T; 93.3F BP: Left arm: 160/83 Right arm: 156/96 HR: 52 
RR; 18 SaO2: 98% RA. Weight: 97.7 kg
General:  In NAD. Cooperative. AOx4. 
HEENT:  No JVD. Moist mucous membranes. PERRL. 
Neck: No JVD 
CV: Bradycardic to 56 bpm, No MRG. Chest pain is 
non-reproducible. 
Lungs: Clear to auscultation bilaterally.  
Abdomen:  Soft, non-tender, non-distended. 
GU:  No foley in place. 
Extr:  No edema. Varicose veins in ___ ___. 
Neuro:  ___ Muscle strength in upper extremities. Sensation is 
intact. 
Skin:  No lesions. 
LABS:  See below

PHYSICAL EXAM ON DISCHARGE
==================================
Wt: 98.2 kg
Vitals:  T 98.2 BP: 142/85 HR: 58 RR; 18 SaO2: 98% RA. 
General:  In NAD. Cooperative. AOx4. 
HEENT:  No JVD. Moist mucous membranes. PERRL. 
Neck: No JVD 
CV: Bradycardic to 60 bpm, No MRG. Chest pain is 
non-reproducible. 
Lungs: Clear to auscultation bilaterally.  
Abdomen:  Soft, non-tender, non-distended. 
GU:  No foley in place. 
Extr:  No edema. Varicose veins in ___ ___. 
Neuro:  ___ Muscle strength in upper extremities. Sensation is 
intact. 
Skin:  No lesions. 

 
Pertinent Results:
LABS ON ADMISSION
==============================
___ 12:39PM   GLUCOSE-101* UREA N-12 CREAT-0.8 SODIUM-137 
POTASSIUM-3.7 CHLORIDE-100 TOTAL CO2-28 ANION GAP-13
___ 05:20PM   CALCIUM-9.6 PHOSPHATE-3.7 MAGNESIUM-1.9
___ 05:20PM   cTropnT-<0.01
___ 12:39PM   cTropnT-<0.01
___ 12:39PM   WBC-5.3 RBC-4.78 HGB-15.0 HCT-44.0 MCV-92 
MCH-31.4 MCHC-34.1 RDW-12.8 RDWSD-42.8
___ 12:39PM   NEUTS-56.3 ___ MONOS-12.2 EOS-2.3 
BASOS-0.9 IM ___ AbsNeut-2.99 AbsLymp-1.48 AbsMono-0.65 
AbsEos-0.12 AbsBaso-0.05
___ 12:39PM   PLT COUNT-215

LABS ON DISCHARGE
==============================

___ 07:40AM BLOOD WBC-6.5 RBC-4.67 Hgb-14.7 Hct-43.3 MCV-93 
MCH-31.5 MCHC-33.9 RDW-13.0 RDWSD-44.0 Plt ___
___ 12:39PM BLOOD Neuts-56.3 ___ Monos-12.2 Eos-2.3 
Baso-0.9 Im ___ AbsNeut-2.99 AbsLymp-1.48 AbsMono-0.65 
AbsEos-0.12 AbsBaso-0.05
___ 07:40AM BLOOD Plt ___
___ 07:40AM BLOOD Glucose-117* UreaN-12 Creat-0.8 Na-138 
K-3.7 Cl-101 HCO3-27 AnGap-14
___ 12:00AM BLOOD CK(CPK)-58
___ 07:40AM BLOOD Calcium-9.0 Phos-3.1 Mg-1.9

___: Exercise Stress Test: IMPRESSION: Anginal symptoms 
and ischemic EKG changes. Frequent VEA and Wenckebach in 
recovery. 

___: EKG: Possible ectopic atrial bradycardia with a 
slightly leftward P wave frontal plane axis with slightly 
prolonged P-R interval. Intraventricular conduction delay. Early 
anterior R wave transition. Left ventricular hypertrophy by 
voltage criteria. Vent rate: 58 PR: 248 QRS: 110 QTc: 420

___: EKG: Sinus Bradycardia  with ___ AV block. Vent 
rate: 59 PR int: 254 ms QRS: 108 QTc: 425 ms

___: CATH REPORT: Right dominance. RCA 40 % stenosis in 
mid-segment. 20% stenosis of LMCA and 95% stenosis on LAD. 
Succussful PTCA of mid LAD with DES.

 
Brief Hospital Course:
___ male, history of hypertension, hyperlipidemia, 
strong, coronary history, and family, presenting for several 
episodes of recurrent left arm tingling and substernal chest 
discomfort found to have positive stress test. 
 
# Coronary Artery disease s/p DES: 
Patient presented with intermittent pressurized chest pain and 
radiation to the left arm at rest and with activity. Given his 
risk factors for CAD (hypertension, hyperlipidemia, and strong 
family history), he had a stress test in the ED. He was found to 
have positive exercise stress test and was admitted for cardiac 
catheterization. He was found to have 95% stenosis of LAD, and 
is status post DES to mid-LAD. Patient was started on Plavix 75 
mg Daily for at least 12 months and Aspirin. His Simvastatin 10 
was changed to Atorvastatin 80 mg. Beta blocker was not started 
as patient had HR in the 50-55 range at baseline.

#  Hypertension: 
Remained normotensive throughout hospitalization. He was 
continued on HCTZ and lisinopril. 
 
# Sinus Bradycardia:  
Patient was found to have First degree AV delay. PR interval: 
248-275 ms. 1:1 AV delay. ___ be due to regular exercise. 
Patient was Asymptomatic. Recommend outpatient follow-up. Beta 
blocker was not started for this reason

# Hyperlipidemia: Patient was started on atorvastatin 80 mg 
during hospitalization.

# Glaucoma: Continued on Latonoprost 0.005% eye drops  and 
Dorzolomide 2% eye drops

TRANSITIONAL ISSUES:
=====================
-Plavix 75 mg daily started
-atorvastatin 80 mg daily started
-consider starting beta blocker and follow up
-echocardiogram at follow up
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Simvastatin 10 mg PO QPM 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
6. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID Gluacoma 
7. Fish Oil (Omega 3) 1000 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID Gluacoma 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
5. Lisinopril 40 mg PO DAILY 
6. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
7. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
8. Fish Oil (Omega 3) 1000 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Coronary Artery Disease Drug Eluding stent to the LAD

Secondary:
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came in with chest pain and had test called a stress test 
that showed changes concerning for decreased blood flow to the 
heart. You had a test called a cardiac catheterization that 
showed a blockage in one of the arteries of your heart. You had 
a drug eluding stent placed in your heart for this. You were 
started on a medication called Plavix. It is very important that 
you take this medication everyday and do not stop it until told 
so by your Cardiologist. You will follow up with Dr. ___ as 
your ___ in clinic. You will be contacted by her clinic 
for an appointment date in the next few days.

It was a pleasure being involved in your care.
 
Followup Instructions:
___